******************************
** HTRON BEHAVIORAL MODEL  * *
******************************

* This file contains the model and parameters definition
* required to simulate the hTron behavior as described in
* the publication by Karam et. al. (arXiv:2401.12360)
*
* The transient behavior defines the time-dependent response
* that the hTron will exhibit due to its non-instantaneous
* thermal response.
* It is modeled from the experimental data of activation delay
* {tau_on} (delay between the input of a current pulse and the
* switching of the channel). From this delay, a
* simple circuit mimicking the heat transfer from the heater
* to the channel is defined, through the parameter {tau_thermal}).
* The role of this circuit is to filter and delay the arrival of
* the heat pulse on the channel, simulating the propagation of the
* heat through the oxide layer.
*
* The static behavior defines the amount of suppression
* that the channel will experience due to a DC heater current
* input.
* This static behavior part is modeled by two parameters, {Jsw_tilde}
* and {Isupp_tilde}, which are extracted from the hTron
* experimental data.
* With these two parameters, the channel temperature
* is first approximated (from the input heater current),
* which further defines the channel switching current
* at each time point.
* As said above, the delayed heater current from the transient behavior
* is used to get a non-instantaneous response to a heater current
* pulse.



**************************************************
** PARAMETERS AND MODEL DEFINITION **
**************************************************
.subckt hTron_behav heater_p heater_n drain source Meas_TCh Meas_Isw Meas_Ihs
+ const_width=1u            heater_width=0.5u      
+ const_thickness=23.6n      const_length=14u      
+ sheet_resistance=77.9      heater_resistance=50  
+ critical_temp=12.5         substrate_temp=4.2    
+ eta=3                     Jsw_tilde=70G         
+ Isupp_tilde=1024u         Jconstr=100G          
+ tau_on=7.74n              ICh_bias_on=827.8u    
+ Ih_bias_on=747.2u

*   const_width - Channel width (m)
*   heater_width - Heater width (m)
*   const_thickness - Channel thickness (m)
*   const_length - Channel length (m)
*   sheet_resistance - Sheet resistance (Ohms)
*   heater_resistance - Heater resistance (Ohms)
*   critical_temp - Critical temperature (K)
*   substrate_temp - Substrate temperature (K)
*   eta - Efficiency factor (2 or 3)
*   Jsw_tilde - Switching current density (y-intercept) (A/m^2)
*   Isupp_tilde - Enable suppression current density (x-intercept)(A)
*   Jconstr - Constriction current density (A/m^2)
*   tau_on - Turn-on activation delay (s)
*   ICh_bias_on - Channel bias point for set activation delay (A)
*   Ih_bias_on - Heater bias point for set activation delay (A)

**************************************************
** PARAMETERS **
**************************************************
* Number of squares in superconducting channel
.PARAM const_squares=const_length/const_width

* Normal state resistance
.PARAM const_resistance = sheet_resistance*const_length/const_width

* Resistivity (Ohm m)
.PARAM rho = sheet_resistance*const_thickness

* Thermal conductivity (W/m K)
.PARAM kappa = 0.108

* Heat capacity (J/m^3 K)
.PARAM heatCapacity_c = 4400

* Thermal conductivity (W/m^2 K) of substrate interface
.PARAM hc = 50k

* Sheet inductance (pH/square)
.PARAM inductivity = {1.38p*sheet_resistance/critical_temp}

* Channel inductance (pH)
.PARAM const_inductance = {inductivity*const_squares}

* Characteristic velocity (m/s)
.PARAM vo={1*sqrt(hc*kappa/const_thickness)/heatCapacity_c}

* Switching current at substrate temperature (A)
.PARAM Isw_Tsub = Isw(substrate_temp)

* Stekly parameter (unitless)
.PARAM psi = rho*(Isw_Tsub)**2/(hc*(const_width**2)*const_thickness*(critical_temp-substrate_temp))

* Retrapping current (A)
.PARAM Ir = sqrt(2/psi)*Isw_Tsub

* Compute Ih_supp and Jc_0K (valid values of eta are 2 or 3)
.PARAM alpha = if(eta == 2, 0.88, 0.7)
.PARAM beta  = if(eta == 2, 1.25, 1.12)

* Ideal critical current density => At 0K
.PARAM Jc_0K = alpha * Jsw_tilde / (1 - (substrate_temp / critical_temp)**3)**2.1
  * Jsw(ih=0) is given by alpha * Jsw_tilde

* Suppressing current
* .PARAM Ih_supp = beta * Isupp_tilde
.PARAM Ih_supp = Isupp_tilde

* Determine the nanowire temperature from the heater current
.PARAM a = (critical_temp**4 - substrate_temp**4) / Ih_supp**eta

* Temperature at which the channel switched (i.e at which Isw(Tch)=ICh_bias_on)
.PARAM T_switch = critical_temp*(1-(ICh_bias_on/(Jc_0K*const_thickness*const_width))**(1/2.1))**(1/3)
* Heater current needed to reach TCh = T_switch
.PARAM Ih_switch = max(1p, ( (T_switch**4 - substrate_temp**4)/(critical_temp**4-substrate_temp**4))**(1/eta)*Ih_supp)
* RC time constant that makes the filtered heater current reach Ih_switch in time tau_on
.PARAM tau_thermal = - tau_on/ln(1- (Ih_switch/Ih_bias_on) )

* a small offset for stability
.PARAM delta=1u
  
* scaling factor for stability
.PARAM scale=1e10
  
.param Phi0=2.068e-15  ; Flux quantum (Wb)

**************************************************
** HEATER SUBCIRCUIT **
**************************************************
* Heater resistor between the two ports
R_heater heater_p heater_n {heater_resistance}
  * Used to sense the heater current


**************************************************
** S/C SENSE SUBCIRCUIT **
**************************************************
* The sub-circuit is split into two sources for stability
* V(N_c_Isw_state) is 1 if the current in channel overcomes Isw, 0 otherwise
BI_safe_Lc const_current 0 V = sgn(i(Lc)) * max(abs(i(Lc)), 1n)

B_c_Isw_state N_c_Isw_state 0
+ V = stp(
+     abs(V(const_current)) * scale
+     - V(Meas_Isw) * scale
+ )

* V(N_c_state) is 0 if wire s/c, 1 if normal
B_c_state N_c_state 0
+ V = buf(
+     V(N_c_Isw_state) 
+     | 
+     ((V(N_hotspot_resistance) > 0) 
+     & 
+     stp(
+         abs(i(Lc)) * scale 
+         - V(Meas_Ihs) * scale
+     ))
+ )

**************************************************
** HOTSPOT GROWTH INTEGRATOR SUBCIRCUIT **
**************************************************
R_enable N_enable 0 1G
B_enable N_enable 0 V = if(V(N_c_state) & (V(N_hotspot_resistance) < const_resistance), 1, 0)

BI_ratio N_norm_current 0 V = V(const_current) / V(Meas_Isw)

B_sqrt_arg N_sqrt_arg 0 V = psi * V(N_norm_current)**2 - 1
B_sqrt_approx N_sqrt_approx 0 V = (V(N_sqrt_arg) + delta) / 2

B_c_hotspot N_hotspot_resistance 0 V = sdt(
+   V(N_enable) * ( (2 * sheet_resistance * vo / const_width) * 
+   (psi * V(N_norm_current)**2 - 2) /
+   (max(V(N_sqrt_arg), 0) + {delta}) ),
+   0, 
+   V(N_c_state) < 0.5
+ )

**************************************************
** TRANSIENT BEHAVIOR: HEAT TRANSFER SUB-CIRCUIT **
**************************************************

* Lumped-elements circuit, mimics the heat transfer
B_heat N001 0 
+ V = I(R_heater)

R1 heat N001 1
C1 heat 0 {tau_thermal}
  * {tau_thermal} makes sure the activation delay is {tau_on} at the bias point [ICh_bias_on, Ih_bias_on]
  * V(heat) is the "filtered" output node of the subcircuit


**************************************************
** STATIC BEHAVIOR: PARAMETERS AND FITTING **
**************************************************

.func TCh(I) 
+ (a * I**eta + substrate_temp**4) ** 0.25

* Determine the switching current from the nanowire temperature
.func Isw(T) 
+ Jc_0K * const_width * const_thickness * (1 - (T / critical_temp)**3) ** 2.1

.funct Iretrap(T)
+ sqrt(hc*(const_width**2)*const_thickness*critical_temp/rho)*sqrt(1-(T/critical_temp))
**************************************************
** BEHAVIORAL SOURCES **
**************************************************

* Used to get values of functions at every time point
B1 Meas_TCh 0 
+ V = min(Tc-1m, TCh(V(heat)))
  * Channel temperature

B2 Meas_Isw 0 
+ V = min(Jconstr * const_width * const_thickness , Isw(V(Meas_TCh)))
  * Channel switching current, with the possibility of adding a constriction plateau

* Replace 1 by 0.99 in B3 to improve stability in large circuits
B3 Meas_Ihs 0 
+ V = min(Iretrap(V(Meas_TCh)) , 0.99 * V(Meas_Isw))
  * Retrapping current


**************************************************
** MAIN NANOWIRE CIRCUIT **
**************************************************

Lc drain N_hs 
+ Flux = {const_inductance} * x / (2.0 * cos(0.67 * asin(0.6 * abs(x) / Isw_Tsub)) - 1) 
+ Rser = 1e-100 
+ Rpar = 1e6
  * Channel inductor

B_Rhs N_hs source 
+ V = V(N_hotspot_resistance) * i(B_Rhs)
  * V(N_c_hotspot) is the hotspot resistance


.ends hTron_behav
